US05359055
A mixture of 11.6 mg (0.0112 mmole) of tris(dibenzylideneacetone)dipalladium(chloroform), 22.4 μl (0.0898 mmole) of tributylphosphine and 2 ml of dry tetrahydrofuran was stirred in an atmosphere of argon gas at room temperature for 10 minutes. To this mixture was added 14.2 mg (0.224 mmole) of ammonium formate, followed by stirring for 30 minutes. To the resulting mixture was further added a solution of 27.3 mg (0.0561 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α;6α,7α-diepoxypregn-4-en-3β-yl acetate in 2 ml of dry tetrahydrofuran and the mixture was refluxed for 10 minutes. The reaction mixture was cooled to room temperature, diluted with methylene chloride and washed with cold 1N-hydrochioric acid. The aqueous layer (washings) was extracted with methylene chloride and the extract was combined with the organic layer. The resulting mixture was washed successively with cold saturated aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. Purification of the residue by silica gel chromatography (eluent: ethyl acetate-hexane=1:5, v/v) gave 11.0 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate (yield: 40%). In addition, 11.8 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl )-1α,2α-epoxy-7α-hydroxypregn-4-en-3β-yl acetate was recovered as a byproduct (yield: 43%).

reactant | tributylphosphine | 0.0898 mmole, 22.4 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ammonium formate | 0.224 mmole, 14.2 mg | C(=O)[O-].[NH4+]
reactant | 6α,7α-diepoxypregn-4-en-3β-yl acetate | C(C)(=O)O[C@@H]1C2=C3[C@]4([C@H]([C@H]5[C@@H]6CC[C@H](CC)[C@]6(CC[C@@H]5[C@]3(CC1)C)C)O4)O2 | C23H32O4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 11.0 mg, yield: 40% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
